US07294632B2
A solution of 15.91 g (0.15 mol) of cyclopentylideneacetonitrile in 170 ml of an aqueous ammonia solution (29%) and 57 ml of methanol was heated at 100° C. in a sealed tube for 24 h. The reaction mixture was concentrated, and the residue was chromatographed on silica gel eluting with a mixture of dichloromethane/methanol in the proportions 90/10 to afford 12.15 g of the product as a colorless oil. 3.2 Tert-butyl 1-(cyanomethyl)cyclopentylcarbamate The product was obtained by analogy with the method described in step 1.2 and using (1-aminocyclopentyl)acetonitrile. The compound was used as such in the next step. 3.3 Tert-butyl 1-(2-aminoethyl)cyclopentylcarbamate To a suspension of 8.48 g (223.63 mmol) of lithium aluminum hydride in 687 ml of diethyl ether at 0° C. was added dropwise 16.7 g (74.54 mmol) of tert-butyl 1-(cyanomethyl)cyclopentylcarbamate dissolved in 344 ml of diethyl ether. The resulting mixture was stirred at 0° C. under nitrogen atmosphere for 1 h. The reaction mixture was diluted with 100 ml of diethyl ether at 0° C. and treated with excess of a saturated aqueous solution of sodium sulfate. Further solid sodium sulfate was added and the organic phase was filtered to remove salts. The solvent was evaporated to dryness to give 13.83 g of product as an oil. 3.4 1-(2-Aminoethyl)cyclopentanamine hydrobromide (1:2) The product was obtained by analogy with the method described in step 1.6 and using tert-butyl 1-(2-aminoethyl)cyclopentylcarbamate. The compound was used as such in the next step. Mp: 194-196° C. 3.5 6,8-Diazaspiro[4.5]dec-7-en-7amine hydrobromide (1:1) The product was obtained by analogy with the method described in step 1.7 and using 1-(2-aminoethyl)cyclopentanamine hydrobromide (1:2). The compound was used as such in the next step. 3.6 8′-Pyridinyl-4-yl-3′,4′-dihydrospiro[cyclopentane-1,2′-pyrimido[1,2-a]pyrimidin]-6′(1′H)-one The product was obtained by analogy with the method described in step 1.8 and using 6,8-diazaspiro[4.5]dec-7-en-7amine hydrobromide (1:1). The compound was used as such in the next step. Mp: 241-243° C. 3.7 1′-[(2S)-2-Hydroxy-2-phenylethyl]-8′-pyridin-4-yl-3′,4′-dihydrospiro[cyclopentane-1,2′-pyrimido[1,2-a]pyrimidin]-6′(1′H)-one.(1:1) (hydrochloride) The product was obtained by analogy with the method described in step 1.9 and using 8′-pyridinyl-4-yl-3′,4′-dihydrospiro[cyclopentane-1,2′-pyrimido[1,2-a]-pyrimidin]-6′(1′H)-one.

reactant | 6,8-diazaspiro[4.5]dec-7-en-7amine hydrobromide | Br.C1CCCC12NC(=NCC2)N
reactant | 1′-[(2S)-2-Hydroxy-2-phenylethyl]-8′-pyridin-4-yl-3′,4′-dihydrospiro[cyclopentane-1,2′-pyrimido[1,2-a]pyrimidin]-6′(1′H)-one | O[C@H](CN1C=2N(CCC13CCCC3)C(C=C(N2)C2=CC=NC=C2)=O)C2=CC=CC=C2 | C24H26N4O2
product | 1′-(2-Oxo-2-phenylethyl)-8′-pyridin-4-yl-3′,4′-dihydrospiro[cyclopropane-1,2′-pyrimido[1,2-a]pyrimidin]-6′(1′H)-one | O=C(CN1C=2N(CCC13CC3)C(C=C(N2)C2=CC=NC=C2)=O)C2=CC=CC=C2 | C22H20N4O2
